US07196104B2
Preparation CK: 5-(4-Carboxy-thiazol-2-yl)-indole-1-carboxylic acid tert-butyl ester
To a solution of 5-(4-ethoxycarbonyl-thiazol-2-yl)-indole-1-carboxylic acid tert-butyl ester (3.34 g, 9.0 mmol) and 125 mL of THF was added 1N NaOH (aq) (30.0 mL, 30.0 mmol). The solution was stirred for 24 h then concentrated in vacuo. The crude solid was redissolved in H2O and acidified with 5% KHSO4. The solid was filtered and dried in vacuo at 60° C. to give a pinkish-white solid. MS m/z: 345 (M+1). Calc'd for C17H16N2O4S-344.39.

reactant | 5-(4-ethoxycarbonyl-thiazol-2-yl)-indole-1-carboxylic acid tert-butyl ester | 9.0 mmol, 3.34 g | C(C)(C)(C)OC(=O)N1C=CC2=CC(=CC=C12)C=1SC=C(N1)C(=O)OCC | C19H20N2O4S
reactant | NaOH | 30.0 mmol, 1N, 30.0 mL | [OH-].[Na+]
solvent | THF | 125 mL | C1CCOC1 | C4H8O
product | 5-(4-Carboxy-thiazol-2-yl)-indole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C=CC2=CC(=CC=C12)C=1SC=C(N1)C(=O)O | C17H16N2O4S
